US06211197B1
Step 2 1-allyl-3-phenoxybenzene
A suspension of 1-bromo-3-phenoxybenzene (2.01 g; 8.08 mmol), PdCl2(PPh3)2 (296 mg; 0.42 mmol), allyl tributyltin 3.13 g; 9.46 mmol), triphenylphosphine (455 mg; 1.73 mmol) and LiCl (1.39 g; 33 mmol) in 10 ml DMF was stirred at 100° C. for 3 h. After cooling to r.t the mixture was diluted with Et2O (75 ml), washed with water (3×50 ml) and brine, dried over MgSO4 and concentrated. Flash chromatography with hexane afforded the desired material.

reactant | 1-bromo-3-phenoxybenzene | 8.08 mmol, 2.01 g | BrC1=CC(=CC=C1)OC1=CC=CC=C1 | C12H9BrO
reactant | allyl tributyltin | 3.13 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | triphenylphosphine | 1.73 mmol, 455 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | LiCl | 33 mmol, 1.39 g | [Li+].[Cl-]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Et2O | 75 ml | CCOCC | C4H10O
catalyst | PdCl2(PPh3)2 | 0.42 mmol, 296 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-allyl-3-phenoxybenzene | C(C=C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C15H14O
